US07691882B2
3-(3-(4-(2-(Tetrahydrofuran-2-yl)-ethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To an anhydrous tetrahydrofuran (5 mL) solution of 3-ethynyl-pyridin-2-ylamine described in Manufacturing Example 1-2-3 (43.7 mg, 0.37 mmol) was added (4-(2-tetrahydrofuran-2-yl-ethyl) phenyl)-acetohydroximoyl chloride (300 mg, 1.12 mmol) described in Manufacturing Example 82-1-6 under nitrogen atmosphere at room temperature. Triethylamine (0.31 mL, 2.24 mmol) was then added dropwise and stirred for 2 hours at 60° C. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:9 then 3:7) to obtain the title compound (68 mg, 53%).

reactant | 3-ethynyl-pyridin-2-ylamine | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | (4-(2-tetrahydrofuran-2-yl-ethyl) phenyl)-acetohydroximoyl chloride | 1.12 mmol, 300 mg | O1C(CCC1)CCC1=CC=C(C=C1)CC(=NO)Cl | C14H18ClNO2
reactant | Triethylamine | 2.24 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(2-(Tetrahydrofuran-2-yl)-ethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 68 mg, 53% | O1C(CCC1)CCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H23N3O2
